US08119633B2
Methyl 1-(3,4-dichlorophenylsulfonyl)indoline-2-carboxylate
Indoline-2-carboxylic acid methyl ester (33.0 g, 149.7 mmol) was dissolved in DCM (400 ml), and pyridine (37.8 ml, 463.2 mmol) was added thereto. A solution of 3,4-dichlorobenzenesulfonyl chloride (24.1 ml, 154.4 mmol) dissolved in DCM (100 ml) was then added, and the mixture was stirred overnight under reflux and then cooled to room temperature. The mixture was diluted with DCM and washed in succession with 0.5 M KHSO4, saturated NaHCO3 solution and saturated NaCl solution. The organic phase was dried (sodium sulfate) and concentrated in vacuo.

reactant | Indoline-2-carboxylic acid methyl ester | 149.7 mmol, 33.0 g | COC(=O)C1NC2=CC=CC=C2C1 | C10H11NO2
reactant | pyridine | 463.2 mmol, 37.8 ml | N1=CC=CC=C1 | C5H5N
reactant | 3,4-dichlorobenzenesulfonyl chloride | 154.4 mmol, 24.1 ml | ClC=1C=C(C=CC1Cl)S(=O)(=O)Cl | C6H3Cl3O2S
solvent | DCM | 400 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
product | Methyl 1-(3,4-dichlorophenylsulfonyl)indoline-2-carboxylate | ClC=1C=C(C=CC1Cl)S(=O)(=O)N1C(CC2=CC=CC=C12)C(=O)OC | C16H13Cl2NO4S
